US04496572
A mixture of 3-methylthiobenzo[b]thiophene-5-carboxylic acid (5.62 g) and phosphorous oxychloride (2 ml) in ethanol (200 ml) was heated under reflux for 18 hours and then evaporated. The residue was dissolved in ether and the solution was washed with sodium bicarbonate solution, water and dried (Na2SO4). Evaporation of the solvent gave a solid which was crystallised from ethanol to give 3-methylthiobenzo[b]thiophene-5-carboxylic acid ethyl ester (5.84g), m.p. 67°-69°.

reactant | 3-methylthiobenzo[b]thiophene-5-carboxylic acid | 5.62 g | CC=1C2=C(SC1)C=CC(=C2)C(=S)O | C10H8OS2
reactant | phosphorous oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 3-methylthiobenzo[b]thiophene-5-carboxylic acid ethyl ester | 5.84g | C(C)OC(=S)C1=CC2=C(SC=C2C)C=C1 | C12H12OS2
